US04723986
1-Phenylamino-2-butanol
Aniline, (102.3 g, 1.1 mole) was added to 50 ml of dioxane, 108 g of 1,2-epoxy butane and 1 g of potassium fluoride in 25 ml of water. The mixture heated to reflux for 30 hours. The mixture was poured into water, taken up in 200 ml of methylene chloride, dried over anhydrous magnesium sulfate and stripped under vacuum. The residue was distilled under vacuum and the product, b.p. 98°-106° C. at 0.15 mm, weighed 94 g and was 97% pure by GLPC. It was characterized by IR and NMR.

reactant | Aniline | 1.1 mole, 102.3 g | NC1=CC=CC=C1 | C6H7N
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
reactant | 1,2-epoxy butane | 108 g | O1CC1CC | C4H8O
reactant | potassium fluoride | 1 g | [F-].[K+]
solvent | water | 25 ml | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 1-Phenylamino-2-butanol | C1(=CC=CC=C1)NCC(CC)O | C10H15NO
